US08080541B2
To a solution of 24.98 g (113 mmol) 4-(trifluoromethyl)-2-methoxy-benzoic acid in 220 ml toluene were added 82 ml (1.13 mol) thionyl chloride and 5 drops dimethylformamide. The mixture was heated to 80° C. for 3 h. Then the reaction mixture was concentrated at 50° C./10 mbar. The remaining acid chloride, 27.9 g of a light yellow liquid, was dissolved in 160 ml dichloromethane, cooled to 0° C. and a solution of 20.34 g (228 mmol) 2-amino-2-methyl-propan-1-ol in 60 ml dichloromethane added. The mixture was allowed to stir at ambient temperature for 16 h. The off-white suspension was diluted with water, the aqueous phase evaporated and the organic phase extracted 3 times with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product, 33.2 g N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-4-trifluoro-methyl-benzamide, a light yellow oil was dissolved in 220 ml dichloromethane and cooled to 0° C. Then 24.7 ml (340 mmol) thionyl chloride was added drop-wise and the resulting light yellow solution stirred at ambient temperature for 16 h. Then the pH was adjusted to 10 by addition of saturated aqueous Na2CO3 solution. The aqueous layer was separated and extracted 3 times with tert-butyl methyl ether. The combined organic phases were washed twice with brine, dried over Na2SO4, filtered and concentrated. 2-(2-Methoxy-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole was obtained as light yellow oil which was used without further purification: MS (ISP): 274.1 ((M+H)+.).

reactant | 4-(trifluoromethyl)-2-methoxy-benzoic acid | 113 mmol, 24.98 g | FC(C1=CC(=C(C(=O)O)C=C1)OC)(F)F | C9H7F3O3
reactant | thionyl chloride | 1.13 mol, 82 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-2-methyl-propan-1-ol | 228 mmol, 20.34 g | NC(CO)(C)C | C4H11NO
reactant | thionyl chloride | 340 mmol, 24.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 220 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(2-Methoxy-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | COC1=C(C=CC(=C1)C(F)(F)F)C=1OCC(N1)(C)C | C13H14F3NO2
